US05591891
Using the procedure described in Example 60, starting with 2-acetylthiomethyl-3-phenylbutanoic acid and O-benzylserine benzyl ester, and after purification by chromatography, eluting with a hexane/ethyl acetate (8:2 by volume) mixture, N-(2-acetylthiomethyl-1-oxo-3-phenylbutyl)-O-benzylserine benzyl ester is obtained in a 62% yield, the characteristics of which are as follows: Rf =0.16 [hexane/ethyl acetate (8:2 by volume)].

reactant | 2-acetylthiomethyl-3-phenylbutanoic acid | C(C)(=O)SCC(C(=O)O)C(C)C1=CC=CC=C1 | C13H16O3S
reactant | O-benzylserine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N)COCC1=CC=CC=C1)=O | C17H19NO3
product | N-(2-acetylthiomethyl-1-oxo-3-phenylbutyl)-O-benzylserine benzyl ester | 62% yield | C(C1=CC=CC=C1)OC([C@@H](NC(C(C(C)C1=CC=CC=C1)CSC(C)=O)=O)COCC1=CC=CC=C1)=O | C30H33NO5S
